US04420424
(B) Z-D-Lys-Arg-Glu-Val-Tyr-OMe acetate
3.6 g (3.3 mmoles) of Z-D-Lys(Boc)-Arg-Glu(OBut)-Val-Tyr(But)-OMe.HCl are dissolved in 30 ml of 90 percent strength trifluoroacetic acid and the product is worked up analogously to Example 27 D. Yield 2.81 g (94%), [α]D23 =-32.4° (c=1, water).

reactant | Z-D-Lys(Boc)-Arg-Glu(OBut)-Val-Tyr(But)-OMe.HCl | 3.3 mmoles, 3.6 g | N([C@H](CCCCNC(=O)OC(C)(C)C)C(=O)N[C@@H](CCCNC(N)=N)C(=O)N[C@@H](CCC(OC(C)(C)C)=O)C(=O)N[C@@H](C(C)C)C(=O)N[C@@H](CC1=CC=C(C=C1)OC(C)(C)C)C(=O)OC)C(=O)OCC1=CC=CC=C1.Cl
reactant | water | O | H2O
solvent | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
product | Z-D-Lys-Arg-Glu-Val-Tyr-OMe acetate | N([C@H](CCCCN)C(=O)N[C@@H](CCCNC(N)=N)C(=O)N[C@@H](CCC(O)=O)C(=O)N[C@@H](C(C)C)C(=O)N[C@@H](CC1=CC=C(C=C1)O)C(=O)OC)C(=O)OCC1=CC=CC=C1.CC(=O)O | InChI=1S/C40H59N9O11.C2H4O2/c1-24(2)33(37(56)47-31(38(57)59-3)22-25-14-16-27(50)17-15-25)49-36(55)30(18-19-32(51)52)46-34(53)28(13-9-21-44-39(42)43)45-35(54)29(12-7-8-20-41)48-40(58)60-23-26-10-5-4-6-11-26;1-2(3)4/h4-6,10-11,14-17,24,28-31,33,50H,7-9,12-13,18-23,41H2,1-3H3,(H,45,54)(H,46,53)(H,47,56)(H,48,58)(H,49,55)(H,51,52)(H4,42,43,44);1H3,(H,3,4)/t28-,29+,30-,31-,33-;/m0./s1
